datasets/10k_Mayr_OG.csv
SMILES Labelled
"CC1=CC(C)=C([N:61]2[C-:10]=[N+:71](C3=C(C)C=C(C)C=C3C)[CH:63]=[CH:62]2)C(C)=C1.N#C[C:44]1=[CH:43][CH:42]=[C:41](/[CH:20]=[CH:21]/[N+:22](=[O:23])[O-:33])[CH:46]=[CH:45]1>>CC1=CC(C)=C([N:61]2[C:10]([CH:20]([CH:21]=[N+:22]([O-:23])[O-:33])[C:41]3=[CH:42][CH:43]=[C:44](C#N)[CH:45]=[CH:46]3)=[N+:71](C3=C(C)C=C(C)C=C3C)[CH:63]=[CH:62]2)C(C)=C1 10=20;20,21=21,22;22,23=23"
"COC1=CC=C([CH:20]=[C:21]([C:22]#[N:23])[C:32]#[N:33])C=C1.C[Si:63](C)(C)[O:12]/[C:11](=[CH:10]\C1=CC=CC=C1)[C:72]1=[CH:73][CH:74]=[CH:75][CH:84]=[CH:83]1>>COC1=CC=C([CH:20]([CH:10](C2=CC=CC=C2)[C:11](=[O+:12][Si:63](C)(C)C)[C:72]2=[CH:73][CH:74]=[CH:75][CH:84]=[CH:83]2)[C:21](=[C:22]=[N-:23])[C:32]#[N:33])C=C1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"CN(C)C1=CC=C(C2C3[CH:20](C4=CC=C(N(C)C)C=C4)[Pd-:21]23([P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)[P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C[Si](C)(C)[O:12][C:11](=[CH:10]C)[O:62][Si:63](C)(C)C>>CN(C)C1=CC=C(C2C([CH:20](C3=CC=C(N(C)C)C=C3)[CH:10](C)[C:11](=[O+:12][Si](C)(C)C)[O:62][Si:63](C)(C)C)[Pd-2:21]2([P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)[P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C=C1 10,11=10,20;12=11,12;20,21=21"
"CC[O:33][C:31]([C:20]1=[C:21](/[N:22]=[N:23]/[C:24](N)=[O:25])CCC1)=[O:32].[CH-:10]1[CH:61]=[CH:62][C:72]2=[C:71]1[CH:76]=[CH:75][CH:74]=[CH:73]2>>CC[O:33][C:31]([C:20]1([CH:10]2[CH:61]=[CH:62][C:72]3=[C:71]2[CH:76]=[CH:75][CH:74]=[CH:73]3)CCC[C:21]1=[N:22][N:23]=[C:24](N)[O-:25])=[O:32] 10=20;20,21=21,22;22,23=23,24;24,25=25"
"C[C:11]1=[N:10]CCC[NH:12]1.[CH:20](=[C:21]([C:22]#[N:23])[C:32]#[N:33])[C:41]1=[CH:42][CH:43]=[CH:44][CH:46]=[CH:45]1>>C[C:11]1=[NH+:12]CCC[N:10]1[CH:20]([C:21](=[C:22]=[N-:23])[C:32]#[N:33])[C:41]1=[CH:42][CH:43]=[CH:44][CH:46]=[CH:45]1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"CC[N:82](CC)/[C:11](=[CH:10]/[N+:61]1=[CH:62][CH:63]=[CH:64][CH:73]=[CH:72]1)[O-:12].Cl[C:34]1=[CH:33][CH:32]=[C:31]([CH+:20][C:41]2=[CH:42][CH:43]=[C:44](Cl)[CH:45]=[CH:46]2)[CH:36]=[CH:35]1>>CC[N:82](CC)[C:11]([CH:10]([CH:20]([C:31]1=[CH:32][CH:33]=[C:34](Cl)[CH:35]=[CH:36]1)[C:41]1=[CH:42][CH:43]=[C:44](Cl)[CH:45]=[CH:46]1)[N+:61]1=[CH:62][CH:63]=[CH:64][CH:73]=[CH:72]1)=[O:12] 10,11=10,20;12=11,12"
"CN1C(=O)C(CC2=CC=CC=C2)/[N+:23](=[CH:22]/[CH:21]=[CH:20]/[C:31]2=[CH:32][CH:33]=[C:34](C)[CH:35]=[CH:36]2)C1(C)C.O=N[W:11]1234(N=O)([H:10])C5C1C2C3C54>>CN1C(=O)C(CC2=CC=CC=C2)[N:23]([CH:22]=[CH:21][CH:20]([H:10])[C:31]2=[CH:32][CH:33]=[C:34](C)[CH:35]=[CH:36]2)C1(C)C.O=N[W+:11]1234(N=O)C5C1C2C3C54 10,11=10,20;20,21=21,22;22,23=23"
"C[C:22]1=[N+:23](C)C2=C(C=CC=C2)/[C:21]1=[CH:20]\[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1.[O-:10][C:61]1=[CH:62][CH:63]=[N:64][CH:73]=[CH:72]1>>C[C:22]1=[C:21]([CH:20]([O:10][C:61]2=[CH:62][CH:63]=[N:64][CH:73]=[CH:72]2)[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)C2=C(C=CC=C2)[N:23]1C 10=20;20,21=21,22;22,23=23"
"CC1(C)[O:62][C:91](=[O:92])[C-:10](CC2=CC=C(C#N)C=C2)[C:72](=[O:73])[O:83]1.[O-][N+]1=[C:33]2[C:32](=NO1)[C:21]([N+:22]([O-])=[O:23])=[CH:20][C:41]1=[N+:42]([O-])O[N:35]=[C:34]21>>CC1(C)[O:62][C:91](=[O:92])[C:10](CC2=CC=C(C#N)C=C2)([CH:20]2[C:21](=[N+:22]([O-])[O-:23])[C:32]3=NO[N+]([O-])=[C:33]3[C:34]3=[N:35]O[N+:42]([O-])=[C:41]23)[C:72](=[O:73])[O:83]1 10=20;20,21=21,22;22,23=23"
"C1CC[C:20](=[O:21])CC1.N#CC1=CC=C([S:61]([CH-:10]Cl)(=[O:62])=[O:72])C=C1>>N#CC1=CC=C([S:61]([CH:10](Cl)[C:20]2([O-:21])CCCCC2)(=[O:62])=[O:72])C=C1 10=20;20,21=21"
"C/[C:11](=[C:10]1\CCC[O:72][C:61]1=[O:62])[O-:12].C1CCN([C:34]2=[CH:33][CH:32]=[C:31]([CH+:20][C:41]3=[CH:42][CH:43]=[C:44](N4CCCC4)[CH:45]=[CH:46]3)[CH:36]=[CH:35]2)C1>>C[C:11]([C:10]1([CH:20]([C:31]2=[CH:32][CH:33]=[C:34](N3CCCC3)[CH:35]=[CH:36]2)[C:41]2=[CH:42][CH:43]=[C:44](N3CCCC3)[CH:45]=[CH:46]2)CCC[O:72][C:61]1=[O:62])=[O:12] 10,11=10,20;12=11,12"
"C/[CH:10]=[CH:11]/[CH2:62][Si:63](C)(C)C.COC1=CC=CC(OC)=C1[N+]1=C([C:22](/[CH:21]=[CH:20]/[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)=[O:23])N(C)C=C1>>COC1=CC=CC(OC)=C1[N+]1=C([C:22](=[CH:21][CH:20]([CH:10](C)[CH+:11][CH2:62][Si:63](C)(C)C)[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)[O-:23])N(C)C=C1 10,11=10,20;20,21=21,22;22,23=23"
"C[C:11](=[CH2:10])[CH2:62][Si:63](C)(C)C.F[C:33]1=[CH:34][C:35](F)=[CH:36][C:31]([CH+:20][CH:41]=[CH:42][C:53]2=[CH:54][C:55](F)=[CH:56][C:57](F)=[CH:58]2)=[CH:32]1>>C[C+:11]([CH2:10][CH:20]([C:31]1=[CH:32][C:33](F)=[CH:34][C:35](F)=[CH:36]1)[CH:41]=[CH:42][C:53]1=[CH:54][C:55](F)=[CH:56][C:57](F)=[CH:58]1)[CH2:62][Si:63](C)(C)C 10,11=10,20"
"CC(C)=[N:10]CC1=CC=CC=C1.Cl[C:20]1=[C:21](Cl)[C:22](=[O:23])[C:30](Cl)=[C:31](Cl)[C:32]1=[O:33]>>CC(C)=[N+:10](CC1=CC=CC=C1)[C:20]1(Cl)[C:21](Cl)=[C:22]([O-:23])[C:30](Cl)=[C:31](Cl)[C:32]1=[O:33] 10=20;20,21=21,22;22,23=23"
